US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-methoxycarbonyl-5-trifluoromethylaniline gave 2-chloro-5-fluoro-N4-(3-methoxycarbonyl-5-trifluoromethylphenyl)-4-pyrimidineamine. 1H NMR (CD3OD): δ 8.60 (s, 1H), 8.43 (s, 1H), 8.20 (d, 1H, J=3 Hz), 7.99 (s, 1H), 3.96 (s, 3H); 19F NMR (CD3OD): −18332, −18374; and −44259; LCMS: purity: 91%; MS (m/e): 350 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-methoxycarbonyl-5-trifluoromethylaniline | COC(=O)C=1C=C(N)C=C(C1)C(F)(F)F | C9H8F3NO2
product | 2-chloro-5-fluoro-N4-(3-methoxycarbonyl-5-trifluoromethylphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC(=C1)C(F)(F)F)C(=O)OC)F | C13H8ClF4N3O2
